US05550240
After dropwise adding 5.00 g (27.26 moles) of 2,4,6-trichloropyrimidine to the solution of 11.88 g (136.3 mmoles) of 1-amino-2,2-dimethylpropane in 50 ml of isopropanol while cooling and stirring, the reaction mixture is boiled under reflux for 20 hours, then evaporated. The evaporation residue is distributed between 80 ml of chloroform and 25 ml of 10% sodium hydroxide solution. After separation the organic phase is washed 4 times with 20 ml of water each, then dried and evaporated. The evaporation residue is subjected to chromatography by using a mixture of hexane and ethyl acetate as eluent on a silica gel column. By carrying out the elution with a 99:1 mixture, 6-chloro-2,4-bis(2,2-dimethylpropylamino)pyrimidine is obtained which is recrystallized from hexane to give a yield of 5.74 g (73.9%), m.p.: 95°-97° C.

reactant | 2,4,6-trichloropyrimidine | 27.26 moles, 5.00 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | 1-amino-2,2-dimethylpropane | 136.3 mmoles, 11.88 g | NCC(C)(C)C | C5H13N
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 6-chloro-2,4-bis(2,2-dimethylpropylamino)pyrimidine | ClC1=CC(=NC(=N1)NCC(C)(C)C)NCC(C)(C)C | C14H25ClN4
